US07087601B2
To a solution of 5-(1,3-benzoxazol-2-yl)-2-methoxy benzonitrile (270 mg, 1.1 mmol) in CH2Cl2 (5 mL) at 0° C., was added BBr3 (1.0M solution in CH2Cl2, 430 μL, 4.4 mmol) dropwise. The reaction was stirred at it for 4 h. EtOAc (150 mL) was added, as well as H2O (30 mL). The organic layer was washed with brine (2×20 mL), dried (MgSO4), concentrated and the crude product was recrystallized in EtOAc to afford 5-(1,3-benzoxazol-2-yl)-2-hydroxy benzonitrile. MS (ESI) 237 (M+H)+.

reactant | 5-(1,3-benzoxazol-2-yl)-2-methoxy benzonitrile | 1.1 mmol, 270 mg | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C#N)C2)OC | C15H10N2O2
reactant | BBr3 | 4.4 mmol, 1.0M, 430 μL | B(Br)(Br)Br | BBr3
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
reactant | H2O | 30 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(1,3-benzoxazol-2-yl)-2-hydroxy benzonitrile | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C#N)C2)O | C14H8N2O2
